data/oMe_Silver.jsonl
{"reaction_id": "NR-009_1-COc2ccccc2_2-C2CCCCC2_3-C1CCCCC1","name": "Baker-Venkataraman rearrangement","level": "medium","reactants_smiles": ["C(COc2ccccc2)(C2CCCCC2)C(=O)c1ccccc1OC(=O)C1CCCCC1"],"products_smiles": ["C1CCCCC1C(=O)C(COc2ccccc2)(C2CCCCC2)C(=O)c1ccccc1O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](COc2ccccc2)(C2CCCCC2)C(=O)c1ccccc1OC(=O)C1CCCCC1","rationale": "The base abstracts the acidic α-proton next to the ketone, as the resulting enolate is resonance-stabilized by the adjacent carbonyl and aromatic ring."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c12c(cccc1)OC([O-])(C1CCCCC1)C(COc2ccccc2)(C2CCCCC2)C2=O","rationale": "The nucleophilic enolate oxygen attacks the electrophilic ester carbonyl, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1C(=O)C(COc2ccccc2)(C2CCCCC2)C(=O)c1ccccc1[O-]","rationale": "The alkoxide intermediate expels the phenoxide leaving group, driven by the stability of phenoxide and formation of a conjugated 1,3-diketone system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C(=O)C(COc2ccccc2)(C2CCCCC2)C(=O)c1ccccc1O","rationale": "The phenoxide anion is protonated under the reaction conditions to yield the neutral phenol product, favored by the phenol's resonance stabilization."}],"description": "Under basic conditions, the α-proton adjacent to the ketone is deprotonated to form an enolate, which attacks the ester carbonyl intramolecularly. This rearranges via acyl transfer to yield the 1,3-diketone phenol product after elimination and protonation."}
